US05120843
4-(6-Hydroxyhexyloxy)anisole
A mixture of 4-methoxyphenol (8.7 g), potassium carbonate (9.7 g), 6-chlorohexanol (9.55 g) and DMSO (80 ml) is heated at 120° for 18 hr. Most all of the DMSO is removed at reduced pressure and the residue distributed between ether (400 ml) and water (400 ml). The ether phase is washed with water, saline, dried over sodium sulfate and the solvent removed at reduced pressure to give a residue which is crystallized from ether to give the title compound, m.p. 63°-64°; MS (m/e) 224 (M+).

reactant | 4-methoxyphenol | 8.7 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chlorohexanol | 9.55 g | ClCCCCCCO | C6H13ClO
solvent | DMSO | 80 ml | CS(=O)C | C2H6OS
product | 4-(6-Hydroxyhexyloxy)anisole | OCCCCCCOC1=CC=C(C=C1)OC | C13H20O3
